US04416879
Diethyl azodicarboxylate (4.3 g) was added all at once to a stirred mixture of 3-thietanol (2.0 g), N-hydroxyphthalimide (3.6 g) and triphenylphosphine (5.8 g) in dry tetrahydrofuran (100 ml) at room temperature. The temperature of the reaction mixture was raised to 40° C. The mixture became clear solution and was stirred for 12 hours at room temperature. Tetrahydrofuran was evaporated in vacuo and the residue was dissolved in ethyl acetate (50 ml). The insoluble substance was filtered off. The filtrate was washed three times with a saturated aqueous solution of sodium bicarbonate (50 ml) and with a saturated aqueous solution of sodium chloride (50 ml), dried over magnesium sulfate and evaporated. The residue was dissolved in methylene chloride (50 ml), subjected to column chromatography on silica gel and eluted with methylene chloride. The fractions containing the object compound were collected and evaporated in vacuo to give N-(3-thietanyloxy)phthalimide (2.0 g).

reactant | Diethyl azodicarboxylate | 4.3 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-thietanol | 2.0 g | S1CC(C1)O | C3H6OS
reactant | N-hydroxyphthalimide | 3.6 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 5.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-(3-thietanyloxy)phthalimide | 2.0 g | S1CC(C1)ON1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO3S
